Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
simpathomimetics / phenylephrine / zinc / acetazolamide
 
Attending: ___
 
Chief Complaint:
Back pain, lung mass
 
Major Surgical or Invasive Procedure:
___ Supraclavicular lymph node biopsy
___ Bronchoscopy with lung biopsy
___ Radiation treatment to spine x5

 
History of Present Illness:
___ with pmhx of hypothyrodism who presents with worsening back 
and neck pain. Pt presented to her primary care clinic on ___ 
with worsening right rib and neck pain. The rib pain started on 
the left and then radiated to her right. She initially 
attributed the pain to musculoskeletal injury after throwing 
things in a dumpster. She also noted a large bruise on R 
axillary line as well as a lump at lower R neck.
  
She had a CXR which showed linear density right perihilar region 
question atelectasis, question healing or healed lateral left 
sixth and eighth rib fractures with callus formation. She had 
then had CT chest and neck which showed multiple lytic lesions 
involving cervical and thoracic spine and Right parahilar 
spiculated mass. Palpable mass at the base of right neck 
represents an enlarged likely metastatic lymph node as well as 6 
mm x 7 mm suprasellar mass. Overall clinical presentation 
concerning for lung cancer. Today she was seen in ___ 
___ clinic by Dr. ___ referred to the ED for 
worsening pain and inability to ambulate.  

In the ED, initial VS were: 97.4 76 195/88 16 100% RA  
Labs were notable for: wbc ct 8.7, h/h ___, platelets 151  
An MRI was done and she was given medication for pain.
 
Past Medical History:
Hypercholesterolemia  
MENOPAUSE  
GLAUCOMA SUSPECT W OPEN ANGLE  
FAMILY HISTORY GLAUCOMA  
HYPOTHYROIDISM, UNSPEC  
INSOMNIA  
VITREOUS DEGENERATION  
Screening for colon cancer  
Cataract, nuclear sclerotic senile  
Dermatochalasis  
Status post THR (total hip replacement) left ___  
Macular drusen  
Epiretinal membrane, left eye  
Open angle with borderline findings, low risk  
Onychomycosis  
Rotator cuff tear  
Retinal drusen  
Ocular hypertension of right eye  
Osteopenia  

 
Social History:
___
Family History:
Mother-lung cancer  
Father-lung cancer  

 
Physical Exam:
Admission Physical Exam:
VS: T 97.6 HR 75 BP 170/80 RR 20 O2 97%RA
GENERAL: NAD  
HEENT: EOMI, MMM
CARDIAC: RRR, normal S1 & S2 
LUNG: clear to auscultation, no wheezes or rhonchi  
ABD: Soft, NT/ND, no rebound or guarding  
EXT: No lower extremity pitting edema  
NEURO: Alert and oriented, CN II-XII intact, no focal deficits
but exam limited by pain.
SKIN: Warm and dry, without rashes   

Discharge Physical Exam:
VS: 98.0-97.8   ___   120-134/60-62   18   94-98RA
GEN: AOx3, NAD  
HEENT: PERRLA. MMM. no LAD. no JVD. neck supple.
Cards: RRR S1/S2 normal. no murmurs/gallops/rubs.  
Pulm: CTAB no crackles or wheezes  
Abd: BS+, soft, NT, no rebound/guarding  
Extremities: wwp, no edema. DPs, PTs 2+.
Spine: No midline tenderness on palpation 
Skin: no rashes or bruising
Neuro: ___ strength in U/L extremities. DTRs
2+ ___.
 
Pertinent Results:
Admission Labs:
---------------
___ 11:45AM BLOOD WBC-8.7 RBC-4.43 Hgb-12.0 Hct-36.8 MCV-83 
MCH-27.1 MCHC-32.6 RDW-13.9 RDWSD-42.2 Plt ___
___ 11:45AM BLOOD Neuts-75.3* Lymphs-12.4* Monos-7.7 
Eos-2.4 Baso-0.7 Im ___ AbsNeut-6.52* AbsLymp-1.07* 
AbsMono-0.67 AbsEos-0.21 AbsBaso-0.06
___ 11:45AM BLOOD Plt ___
___ 11:45AM BLOOD Glucose-91 UreaN-21* Creat-1.1 Na-135 
K-5.4* Cl-97 HCO3-28 AnGap-15

Cytology:
---------
___ Supraclavicular Node Bx: 
Nectrotic tissue, could not assess further 

___ Lung biopsy:
Consistent with non-small cell carcinoma, favor adenocarcinoma. 
Cell block preparation shows moderate tumor cellularity. On 
immunohistochemical stains tumor cells are positive for TTF-1 
and negative for p63.

Imaging:
--------
___ MRI Head  
1. Enhancing 8 x 8 x 9 mm suprasellar mass just posterior to the 
optic chiasm in the region of tuber cinereum / mamillary bodies, 
favored to be intracranial metastasis. Possible differential 
diagnosis include Langerhans cell histiocytosis, 
neurosarcoisodid and other inflammatory conditions but favored 
to be less likely.  
2. Multiple osseous metastatic lesions as described above.  

___ MRI C-spine, T-spine  
1. Diffuse osseous metastatic disease as described above. There 
is no significant osseous expansion into the spinal canal.  
2. 2 mm nodular enhancing nodule of a right L3 level nerve root 
is highly suspicious for leptomeningeal metastasis. Additional 
equivocal regions of nodular enhancement right T8 and the left 
T9-T10 levels may also represent additional metastatic foci.  
3. A 3 cm right lower lobe enhancing mass with a subjacent 
subpleural 1.2 cm nodule are noted, which may represent the 
patient's primary lesion.  
4. Superimposed multilevel multifactorial cervical, thoracic and 
lumbar spine spondylosis as described.

___ CXR
Irregular opacity in the right mid lung is nonspecific and in 
the absence of prior could represent site of infection, 
atelectasis or malignancy in this patient with prior 
adenocarcinoma. 
  
Discharge Labs:
---------------
___ 06:35AM BLOOD WBC-6.6 RBC-3.73* Hgb-10.2* Hct-31.0* 
MCV-83 MCH-27.3 MCHC-32.9 RDW-15.5 RDWSD-47.0* Plt ___
___ 06:35AM BLOOD Glucose-96 UreaN-25* Creat-0.8 Na-134 
K-4.6 Cl-100 HCO3-26 AnGap-13
___ 06:35AM BLOOD Calcium-7.7* Phos-2.7 Mg-2.___ with pmhx of hypothyrodism who presents with worsening back 
and neck pain, found to have lung mass with concern for 
metastasis to spine and brain.  

#) Lung Mass: Patient found to have spiculated right lung mass 
with concern for mets to lymph nodes, spine and brain.  ___ core 
biopsy of palpable supraclavicular LN was necotic tissue. Lung 
biopsy showed adenocarcinoma. Patient received 5 treatments XRT 
to T7-L4. Patient was started on pamidronate 60mg, monthly for 
prophylactic hypercalcemia due to bone mets. MRI brain showed 
lesion that will need followup for growth in 1 month.

#) Back and neck pain: Secondary to mets. MRI in ED to rule out 
cord compression given her progressive pain and inability to 
ambulate. Spoke with neurosurgery: no current cord compression, 
did not recommend bracing before ambulation. Patient has had 
increasing pain and requiring for use of PRN medication, no loss 
of sensation or strength in ___, urinary retention resolved.  
Started on 50mcg/hr fentanyl patch + PRN ultram, dilaudid 2mg 
PRN, and gabapentin 300mg TID. ___ evaluated patient during 
admission and recommended home ___ upon discharge.

#) Abdominal pain: Patient with new pain over abdomen without 
ttp on exam but reports sensitivity over skin. Likely related to 
XRT and constipation.  Pain relief following large bowel 
movement.

#) GN Bactermia: Likely secondary to UTI. Pt initially started 
on CTX and antibiotics were narrowed to cipro

====================
Transitional Issues:
====================
- Followup with Atrius Oncology for lung cancer.
- Continue ciprofloxacin for 10 more days for UTI/bacteremia 
___
- Steroid taper with dexamethasone 4mg BID x 3days (___), 
then 2mg BID x 3days (___), then 2mg daily x3days 
(___), then stop completely.
- Recommend MRI head in 1 month for monitoring of brain lesion 
for possible growth.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Zolpidem Tartrate 10 mg PO QHS:PRN Insomnia 
3. Simvastatin 20 mg PO QPM 
4. Naproxen 500 mg PO Q12H:PRN Pain 
5. Acetaminophen w/Codeine ___ TAB PO Q4H:PRN Pain 
6. Ibuprofen 400-600 mg PO Q6H:PRN Pain 

 
Discharge Medications:
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Zolpidem Tartrate 10 mg PO QHS:PRN Insomnia 
4. Fentanyl Patch 50 mcg/h TD Q72H 
RX *fentanyl 50 mcg/hour Apply 1 patch to upper arm, change 
every 72hrs. Q72H Disp #*10 Patch Refills:*0
5. Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule by mouth three times a day Disp 
#*90 Capsule Refills:*0
6. Ciprofloxacin HCl 500 mg PO Q12H Duration: 10 Days 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*20 Tablet Refills:*0
7. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule by mouth DAILY Disp #*30 Capsule 
Refills:*0
8. HYDROmorphone (Dilaudid) ___ mg PO Q2H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet by mouth every four 
(4) hours Disp #*60 Tablet Refills:*0
9. TraMADOL (Ultram) 50 mg PO Q4H:PRN Pain 
RX *tramadol 50 mg 1 tablet by mouth every four (4) hours Disp 
#*60 Tablet Refills:*0
10. Senna 8.6 mg PO BID constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*11
11. Bisacodyl 10 mg PO DAILY 
RX *bisacodyl [Laxative] 5 mg 2 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*11
12. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*11
13. Polyethylene Glycol 17 g PO DAILY constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 gram by 
mouth daily Refills:*11
14. Dexamethasone 4 mg PO Q12H Duration: 6 Doses 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
This is dose # 1 of 3 tapered doses
15. Dexamethasone 2 mg PO Q12H Duration: 6 Doses 
Start: After 4 mg Q12H tapered dose 
This is dose # 2 of 3 tapered doses
16. Dexamethasone 2 mg PO DAILY Duration: 3 Doses 
Start: After 2 mg Q12H tapered dose 
This is dose # 3 of 3 tapered doses

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Metastatic lung adenocarcinoma
- Back pain secondary to metastatic disease
- Urinary tract infection, complicated, E.Coli
- Bacteremia, E.Coli
- Constipation

Secondary Diagnosis:
- Hypothyroidism
- Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for 
severe back pain and an undiagnosed lung mass. A biopsy of your 
lung showed adenocarcinoma, a type of lung cancer.

You had a MRI of your spine with showed tumor spread of your 
cancer to your spine, likely causing your symptoms. You received 
radiation treatment to your back in hope to releave some of your 
back pain. We also started you on new pain medications to 
alleviate your symptoms.  It can cause constipation so you were 
given bowel regimen medications.

You had an MRI of your head that showed a mass in your brain. It 
is uncertain if this is related to your cancer. You will need to 
have repeat imaging of your head in 1 month to monitor this 
finding.

During your admission, you had a urinary tract infection which 
led to bacteria in your blood. You were started on antibiotics 
and will need to continue ciprofloxacin for 10 more days.

You will need to take dexamethasone (steroid) for 9 more days to 
prevent brain swelling. Please take 4mg twice a day for 3 days, 
then 2mg (half tablet) twice a day for next 3 days, and then 2mg 
(half tablet) once a day for final 3 days.

It was a pleasure taking care of you,
___
 
Followup Instructions:
___